US09428442B2
A round bottomed flask with standard equipment was loaded with 14.7 g of clomiphene citrate, 50 mL of chlorobenzene and 50 mL of water. Into the flask, 8 mL of aqueous sodium hydroxide 30% w/w were dropped, up to pH 12. The reaction mixture was stirred, the layers were separated, the organic phase was washed with 3 x 20 mL of water and treated with sodium sulfate, obtaining a clear solution of Clomiphene in chlorobenzene.

reactant | clomiphene citrate | 14.7 g | CCN(CC)CCOC=1C=CC(=CC1)/C(=C(\C=2C=CC=CC2)/Cl)/C=3C=CC=CC3.C(C(=O)O)C(CC(=O)O)(C(=O)O)O
reactant | chlorobenzene | 50 mL | ClC1=CC=CC=C1 | C6H5Cl
reactant | sodium hydroxide | 8 mL | [OH-].[Na+]
solvent | water | 50 mL | O | H2O
product | Clomiphene | CCN(CC)CCOC=1C=CC(=CC1)/C(=C(\C=2C=CC=CC2)/Cl)/C=3C=CC=CC3 | C26H28ClNO
